US06162818
1-t-Butoxycarbonyl-2,3-dihydro-7-methyl-6-nitroindole (0.58 g; 2.2 mmol) is dissolved in methanol (5 mL), treated with a catalytic amount of 10% palladium on carbon and placed under an atmosphere of hydrogen. The solution is allowed to stir overnight. The black suspension is filtered through Celite and the solvent is removed by rotary evaporation to afford 0.51 g of 6-amino-1-t-butoxycarbonyl-2,3-dihydro-7-methylindole as a white solid. (99% yield)

reactant | 1-t-Butoxycarbonyl-2,3-dihydro-7-methyl-6-nitroindole | 2.2 mmol, 0.58 g | C(C)(C)(C)OC(=O)N1CCC2=CC=C(C(=C12)C)[N+](=O)[O-] | C14H18N2O4
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 6-amino-1-t-butoxycarbonyl-2,3-dihydro-7-methylindole | 0.51 g, 99% yield | NC1=CC=C2CCN(C2=C1C)C(=O)OC(C)(C)C | C14H20N2O2
